US07396844B1
Synthesis of 4-[4-(3-cyanophenoxy)butyryl]-N,N-dimethylbenzamide
240 mg (0.78 mmol) of 4-[4-(3-cyanophenoxy)butyryl]benzoic acid, 150 mg (0.78 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, 121 mg (0.78 mmol) of 1-hydroxybenzotriazole (hydrous, 87%) and 100 mg of 50% aqueous dimethylamine solution were stirred together in 5 ml of dimethylformamide at room temperature overnight. 1 N hydrochloric acid was added to the resultant mixture. After the extraction with dichloromethane, the extract was washed with saturated aqueous sodium hydrogencarbonate solution and then with saturated aqueous NaCl solution, and dried over anhydrous magnesium sulfate. The solvent was evaporated. The residue was purified by the silica gel chromatography with ethyl acetate as the eluent to obtain the title compound.

reactant | 4-[4-(3-cyanophenoxy)butyryl]benzoic acid | 0.78 mmol, 240 mg | C(#N)C=1C=C(OCCCC(=O)C2=CC=C(C(=O)O)C=C2)C=CC1 | C18H15NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.78 mmol, 150 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.78 mmol, 121 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dimethylamine | 100 mg | CNC | C2H7N
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-[4-(3-cyanophenoxy)butyryl]-N,N-dimethylbenzamide | C(#N)C=1C=C(OCCCC(=O)C2=CC=C(C(=O)N(C)C)C=C2)C=CC1 | C20H20N2O3
